US09375009B2
To a solution of chloroacetyl chloride (22 mg) was added, at 0° C., a solution of 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride (87 mg) and triethylamine (41 mg) in dichloromethane (1 ml). The reaction mixture was stirred at 0° C. for 15 minutes, and at room temperature for a further 18 hours. Then water was added thereto, and the aqueous phase was removed and extracted with dichloromethane. The combined organic phases were dried over magnesium sulphate and concentrated. Purification by column chromatography gave 2-(3-{2-[1-(chloroacetyl)piperidin-4-yl]-1,3-thiazol-4-yl}-4,5-dihydro-1,2-oxazol-5-yl)phenyl methanesulphonate (60 mg, 60%).

reactant | chloroacetyl chloride | 22 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride | 87 mg | [Cl-].CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | triethylamine | 41 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-(3-{2-[1-(chloroacetyl)piperidin-4-yl]-1,3-thiazol-4-yl}-4,5-dihydro-1,2-oxazol-5-yl)phenyl methanesulphonate | 60 mg, 60% | CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(CCl)=O | C20H22ClN3O5S2
